US04649153
23.5 g of (5-methyl-2-thienyl) succinic acid was added to a mixture of 1.2 kg of polyphosphoric acid and 200 cc of xylene, previously heated to 100° C., and stirred for 3 hours at this temperature. After cooling to 80° C. the reaction mixture was poured in 4 liters of water and extracted with ethyl acetate. The organic phase was washed with water, dried on sodium sulfate then concentrated under reduced pressure. The residue was chromatographed on a silica column (successive eluants: 1/1 hexane-ethyl acetate, then 9/0.9/0.1 methylene chloride-ethanol-acetic acid). 5.7 g (yield: 26%) of 2-methyl-4oxo-5,6-dihydro-4H-cyclopenta[b]thiophene-6-carboxylic acid was obtained which was purified by recrystallization in a hexane-ethyl acetate mixture. Mp=140°-143° C.

reactant | (5-methyl-2-thienyl) succinic acid | 23.5 g | CC1=CC=C(S1)C(C(=O)O)CC(=O)O | C9H10O4S
reactant | xylene | 200 cc | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 4 liters | O | H2O
product | 2-methyl-4oxo-5,6-dihydro-4H-cyclopenta[b]thiophene-6-carboxylic acid | 5.7 g, yield: 26% | CC1=CC2=C(S1)C(CC2=O)C(=O)O | C9H8O3S
